Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute liver failure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old woman with a history of
depression, IV drug use (unclear when she last used), who
presented with encephalopathy and found to be in acute liver
failure. She had about 1 week of GI symptoms that were initially
though to be from a viral GI illness or an issue with the
patient's gallbladder (went to an urgent care 2 days prior).
However, yesterday she was more confused and "unable to get
herself dressed" so her family brought her to ___.
There she was found to be in acute liver failure with lactate
elevated above 6. She was given pip-tazo and 4L NS and sent to
___ in ambulance. 

In the ED, 
- Initial Vitals: Afebrile, hemodynamically stable
- Exam: Notable for AO to self, jaundiced, unsteady gait. No
focal neurologic deficits. 
- Labs: Lactate 2.2 / ALT 3200 / AST 2200 / Tbili 6.5 / INR 3.8 
/
BUN/Cr ___ / ASA, ETOH, APAP, TCA NEGATIVE
- Imaging: RUQUS w/ normal liver texture, patent portal vein,
marked gallbladder wall edema, mild splenomegaly. NO ascites.
Non-con head CT performed, read pending. 
- Consults: Hepatology recommended ICU admission w/ NAC infusion
and Q1H neuro checks. Transplant surgery agreed with MICU
admission, unclear if she would be a surgical candidate at this
time given ?recent drug use. 
- Interventions: Lactulose given, NAC ordered
 
Speaking to the patient's father ___ on the phone, he adds the
following: the urgent care physician did recommend that they
bring the patient to an ED. He is unsure of when/if she last 
used
any illicit substances. 

Upon arrival to the MICU, patient reports that she feels OK and
is very tired, asking if she can go to sleep. 

ROS: Positives as per HPI; otherwise negative.  

 
Past Medical History:
- Depression/anxiety
- Trichitollomania
- IV drug use
- Knee surgery
 
Social History:
___
Family History:
 No family history of liver disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: T 97.8 HR 67 BP 123/82 O2 94% on room air
GEN: Awake and alert, but confused. No acute distress.
Cooperative. 
EYES: PERRL, EOMI, scleral icterus
HENNT: NC/AT, hair notable for short damage and sparse hairs on
the top of the head with spots of gray hairs
CV: RRR, no m/r/g
RESP: Non-labored breathing. No cough. CTAB. No wheezes or rales
GI: Soft, non-distended, with RUQ tenderness to palpation
SKIN: No rashes. The skin over the patient's back appears older
than that of someone for her age with multiple scattered spots
that have the appearance of solar lentigines 
NEURO: ___ and self. Confused about time and specific
building. Speech is fluent but at times answers do not match
questions asked of her, though she is relatively re-directable 
PSYCH: Appears euthymic

DISCHARGE PHYSICAL EXAM:
VS: 24 HR Data (last updated ___ @ 934)
    Temp: 97.8 (Tm 98.2), BP: 120/77 (100-126/63-81), HR: 53
(47-59), RR: 16 (___), O2 sat: 98% (98-99), O2 delivery: Ra   
GEN: in no acute distress
HEENT: +scleral icterus, MMM
CV: RRR, nl s1/s2, no mgr
RESP: CTAB, no wrr
ABD: NABS, soft, nondistended, nontender, no HSM
EXT: wwp, no edema
NEURO: A/Ox3, moves all extremities, no asterixis
SKIN: warm, dry, mild jaundice
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:29PM BLOOD WBC-7.5 RBC-4.70 Hgb-13.5 Hct-41.3 MCV-88 
MCH-28.7 MCHC-32.7 RDW-14.6 RDWSD-47.0* Plt ___
___ 10:29PM BLOOD Neuts-63 ___ Monos-11 Eos-1 Baso-1 
Atyps-2* AbsNeut-4.73 AbsLymp-1.80 AbsMono-0.83* AbsEos-0.08 
AbsBaso-0.08
___ 10:29PM BLOOD ___ PTT-47.1* ___
___ 04:02AM BLOOD Fibrino-93*
___ 10:29PM BLOOD Glucose-62* UreaN-10 Creat-0.6 Na-136 
K-5.4 Cl-103 HCO3-21* AnGap-12
___ 10:29PM BLOOD ALT-3238* AST-2267* AlkPhos-175* 
TotBili-6.5*
___ 10:29PM BLOOD Albumin-3.2* Calcium-8.2* Phos-2.1* 
Mg-2.1
___ 12:46AM BLOOD Ferritn-4009*
___ 12:46AM BLOOD IgM HBc-PND IgM HAV-POS*
___ 10:29PM BLOOD HCG-<5
___ 10:29PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:46AM BLOOD HCV Ab-NEG
___ 10:34PM BLOOD Lactate-2.2*

DISCHARGE LABS:
===============
___ 05:09AM BLOOD WBC-5.1 RBC-4.31 Hgb-12.4 Hct-37.7 MCV-88 
MCH-28.8 MCHC-32.9 RDW-14.9 RDWSD-47.3* Plt ___
___ 05:09AM BLOOD ___ PTT-34.9 ___
___ 05:09AM BLOOD Glucose-90 UreaN-6 Creat-0.7 Na-140 K-4.6 
Cl-104 HCO3-25 AnGap-11
___ 05:09AM BLOOD ALT-1069* AST-356* LD(LDH)-541* 
AlkPhos-143* TotBili-7.7*
___ 05:09AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.2

PERTINENT LABS:
===============
___ 05:13AM BLOOD Calcium-8.1* Phos-3.5 Mg-2.0 Iron-35
___ 05:13AM BLOOD calTIBC-168* TRF-129*
___ 12:46AM BLOOD Ferritn-4009*
___ 05:13AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 12:46AM BLOOD IgM HBc-POS* IgM HAV-POS*
___ 12:46AM BLOOD Smooth-NEGATIVE
___ 12:46AM BLOOD ___
___ 12:46AM BLOOD HCV Ab-NEG
___ 03:50PM BLOOD HBV VL-NOT DETECT
___ 12:46AM BLOOD CMV VL-NOT DETECT
___ 12:46AM BLOOD HCV VL-NOT DETECT

IMAGING:
========

___ HEAD
OSH - no report

___ ABDOMEN
OSH - no report

___ US
FINDINGS: 
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the
liver is smooth. There is no focal liver mass. The main portal 
vein is patent
with hepatopetal flow. There is no ascites.
BILE DUCTS: There is no intrahepatic biliary dilation.
  CHD: 0.6 cm
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening.
PANCREAS: The imaged portion of the pancreas appears within 
normal limits,
without masses or pancreatic ductal dilation, with portions of 
the pancreatic
tail obscured by overlying bowel gas.  A 0.8 cm hypodensity 
anterior to the
pancreatic head likely represents a prominent periportal lymph 
node.
SPLEEN:  Normal echogenicity.
  Spleen length: 13.1
KIDNEYS:  Limited views of the right kidney show no 
hydronephrosis.
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal
limits.
IMPRESSION:
1. The liver echotexture is normal without focal liver lesions.  
The main portal vein is patent.
2. The gallbladder is not distended however is severely 
edematous with wall thickening.  Nuclear medicine HIDA scan is 
recommended for further evaluation for acute cholecystitis, 
chronic cholecystitis, or sequela of gallbladder dysfunction.
3. Mild splenomegaly.

___ HEAD W/O CONTRAST
There is no intra-axial or extra-axial hemorrhage, edema, shift 
of normally
midline structures, or evidence of acute major vascular 
territorial
infarction. Ventricles and sulci are normal in overall size and 
configuration.
The imaged paranasal sinuses are clear. Mastoid air cells and 
middle ear
cavities are well aerated. The bony calvarium is intact.

___ X-RAY (PORTABLE AP)
Lungs are fully expanded and clear.  Cardiomediastinal and hilar 
silhouettes
and pleural margins are normal.

 
Brief Hospital Course:
SUMMARY:
===========

___ is a ___ year old woman with a history of 
depression and IV drug use who presented with acute fulminant 
liver failure, found to be secondary to acute hepatitis A and B 
infection. 

===========

#ACUTE LIVER FAILURE: 
#ACUTE HEPATITIS: 
#ENCEPHALOPATHY: 
#COAGULOPATHY:
Admitted with confusion, AST/ALT in ___, Tbili 6.5, INR 3.8.
APAP levels normal, no hypotension to implicate shock as an 
etiology of her liver failure. Concern for viral hepatitis was 
high given history of injection drug use, hepatitis A IgM 
returned positive. Her hepatitis Bc IgM antibody was positive as 
well with a concomitant HBsAb positive indicating possible 
recent acute infection (see below). There was concern for 
___ given physical exam findings of possible progeric skin 
on her back, premature gray hairs, in the setting of psychiatric 
illness and presentation with acute liver failure. Her 
ceruloplasmin was normal on the day of discharge. On imaging she 
was also note to have incidental gall bladder wall edema likely 
secondary to hepatitis. She completed treatment with NAC and 
improved rapidly. Further studies for underlying hepatic disease 
were pending at discharge. 

# Hepatitis A infection:
The patient was found to have positive HAV IgM consistent with 
acute hepatitis A infection.

# Hepatitis B infection:
The patient was also found to have a positive HBc-IgM Positive 
antibody indicating that she was recently acutely hepatitis B 
infected. She did have a positive HBsAb positive indicating that 
she is no longer infectious and hopefully in the initiation of 
her recovery phase. Her above hepatic failure was demonstrating 
improvement on the day of discharge. 

# Substance use: 
Patient with prior history of IVDU and some intermittent reports 
by patient of intranasal drug use and was positive for ecstasy 
on her toxicology screen at the outside hospital. She was 
evaluated by addiction psychiatry who had set her up for a 
follow up at the ___ ___ at 11am. 
They were planning on starting her on suboxone as an inpatient 
but the patient preferred to start at the clinic. 

TRANSITIONAL ISSUES: 
[] She will need follow up in Liver clinic to monitor her LFTs 
as well as monitor for clearance of her hepatitis B infection 
vs. need for treatment. 
[] There was some concern for Wilsons disease as above. 
Ceruloplasmin was wnl during this admission but may be falsely 
elevated in the setting of acute inflammation. Consider 
repeating as outpatient. 
[] Ensure the patient has psych follow up (both addiction and 
regular) 
[] f/u hepatitis B VL (pending at time of discharge)
[] her family members and any other household members will need 
to complete their hepatitis B and A vaccination regimen

DISCHARGE Hgb: 12.4
DISCHARGE Cr: 0.7
DISCHARGE INR: 1.2 Bili: 7.7
DISCHARGE CODE STATUS: FULL CODE 
CONTACT: Father (___) ___ 
 
___ on Admission:
No medications
 
Discharge Medications:
No medications
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute liver failure
Acute hepatitis A infection 
Acute hepatitis B infection
Substance use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you on this hospital stay at 
___. 

Why was I admitted to the hospital?

-You were admitted to the ___ 
ICU because you were diagnosed with acute liver failure. 

What happened on this hospital stay?
- You were found to have acute hepatitis A and hepatitis B 
infections which likely caused your liver failure
- Your liver tests were monitored and improved 
- You were seen by the social work and addiction teams who 
assisted with substance use treatment options 

What do I need to do once I leave the hospital?

- It is very important that you see your regular doctor
- You should follow up in the liver clinic in 1 week
- Your family should be vaccinated for hepatitis A and hepatitis 
B
- You should abstain from using recreational drugs as these 
likely contributed to your illness 
- Do not take more than 2 grams of Tylenol in 1 day 
- Keep your appointment with ___ on ___ at 11:00 
am

We wish you the best!

Sincerely, 

Your ___ Care Team 

 
Followup Instructions:
___